US07696227B2
4-Nitroaniline (6 g, 38 mmol) was dissolved in HCl (6N, 200 mL), the mixture was heated at 100° C. A solution of (E)-but-2-enal (7.2 mL, 76 mmol) in toluene (60 mL) was added dropwise, and the reaction was heated at 100° C. overnight. The reaction mixture was cooled to room temperature and basified with aqueous KOH until pH=12. The mixture was extracted with EtOAc and the organic layer was washed with brine and dried over anhydrous Na2SO4. 2-Methyl-6-nitroquinoline was obtained after purification by column chromatography (hexane: EtOAc=20:1) (5.8 g, 81.2%). MS [M++1]=189, LC-MS: tR=1.64 min.

reactant | 4-Nitroaniline | 38 mmol, 6 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | (E)-but-2-enal | 76 mmol, 7.2 mL | C(\C=C\C)=O | C4H6O
reactant | KOH | [OH-].[K+]
solvent | HCl | 6N, 200 mL | Cl | ClH
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-6-nitroquinoline | CC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C10H8N2O2
